US06403584B1
To a solution of 1.8 g (6.23 mmol) of 4-(2′,6′-dimethoxyphenyl)-2-nitrobenzyl alcohol and 2.3 g (8.72 mmol) of Ph3P in CH2Cl2 (20 mL) at 0° C. was added 1.32 g (7.5 mmol) of NBS. The reaction mixture was stirred at 0° C. for 30 min at which time TLC analysis (eluted with 25% Et2O in hexanes) indicated that the starting material had been consumed. The reaction mixture was concentrated and the crude residue was purified by flash column chromatography on silica gel eluted with 50% Et2O in hexanes to give 4-(2′,6′-dimethoxyphenyl)-2-nitrobenzyl bromide as a pale yellow solid. Trituration with hexanes gave the product as a white solid.

reactant | 4-(2′,6′-dimethoxyphenyl)-2-nitrobenzyl alcohol | 6.23 mmol, 1.8 g | COC1=C(C(=CC=C1)OC)C1=CC(=C(CO)C=C1)[N+](=O)[O-] | C15H15NO5
reactant | Ph3P | 8.72 mmol, 2.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NBS | 7.5 mmol, 1.32 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Et2O | CCOCC | C4H10O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(2′,6′-dimethoxyphenyl)-2-nitrobenzyl bromide | COC1=C(C(=CC=C1)OC)C1=CC(=C(CBr)C=C1)[N+](=O)[O-] | C15H14BrNO4
